US06054615
A 250-ml flask was charged with triethylamine (4.2 g, 42 mmol), bis(4,4,5,5,6,6,7,7,7-nonafluoroheptyl)amine (18.4 g, 34.3 mmol), and 30 ml THF. To the mixture was added C7H15COCl (6.0 g, 37 mmol) slowly at RT. The resulting mixture was stirred at RT for 1 h. Hexane (100 ml) and water (50 ml) were added to the flask. The mixture was then stirred at RT for 10 min. The bottom layer was isolated and extracted with hexane (50 ml). The extract from this was combined with the top layer and washed with HCl (1 N), water, KOH (aq. 5%) and water until pH=7, dried over Na2SO4, and concentrated to give a residue. The residue was pumped on full vacuum at 140° C. for 2 h to give a yellow oil, 17.6 g. A 250-ml 3-necked flask equipped with a stir bar, condenser, nitrogen inlet and an addition funnel was charged with LiAlH4 (3.0 g) ard 10 ml THF. To the mixture was added a THF (50 ml) solution of the above ye low oil dropwise at 5° C. The resulting mixture was refluxed for 2 hours. After being cooled, the mixture was carefully treated with water (10 ml) to decompose excess LiAlH4. Another 50 ml of water were added and the mixture was filtered. The slurry gel was washed with hexane (3×50 ml). The combined filtrate and hexane washings were separated into two layers. The top layer was washed with water, dried over Na2SO4, concentrated to give a residue which was distilled to afford di(4,4,5,5,6,6,7,7,7-nonafluoroheptyl)octylamine, 15.6 g, yield 70%, bp 159° C./270 Pa absolute. 19F NMR (CDCl3) -81.7 (tt, J=10, 3 Hz, 6F), -115.1 (m, 4F), -125.2 (m, 4F), -126.7 (m, 4F) ppm. 1H NMR (CDCl3) 0.88 (t, J=7 Hz, 3H), 1.27 (m, 10H), 1.39 (m, 2H), 1.71 (m, 4H), 2.38 (t, J=7 Hz, 2H), 2.46 (t,J=7 Hz, 4H) ppm. 13C NMR (CDCl3) 14.0, 18.4, 22.7, 27.2, 27.5, 28.7 (t, J=22 Hz), 29.3, 29.6, 31.9, 53.0, 53.9, 108-123 (m) ppm. MS (m/e) 550 (M+ -C7H15, 100%), 402 (83%), 304 (78%), 290 (25%), 169 (2.0%), 119 (4.8%), 71 (10%) 69 (29%), 57 (35%). Anal. Calcd. for C22H29F18N: C, 40.67; H, 4.50; F, 52.66; N, 2.16. Found: C,40.58; H,4.54 F,53.02; N, 2.09.

reactant | triethylamine | 42 mmol, 4.2 g | C(C)N(CC)CC | C6H15N
reactant | bis(4,4,5,5,6,6,7,7,7-nonafluoroheptyl)amine | 34.3 mmol, 18.4 g | FC(CCCNCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(C(C(C(F)(F)F)(F)F)(F)F)F | C14H13F18N
reactant | C7H15COCl | 37 mmol, 6.0 g | C(CCCCCC)C(=O)Cl | C8H15ClO
reactant | LiAlH4 | 3.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | water | 50 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
solvent | Hexane | 100 ml | CCCCCC | C6H14
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | di(4,4,5,5,6,6,7,7,7-nonafluoroheptyl)octylamine | yield 70% | FC(CCCN(CCCCCCCC)CCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(C(C(C(F)(F)F)(F)F)(F)F)F | C22H29F18N
